US06586617B1
To a suspension of sodium hydride (60%, 0.43 g (10.8 mmol)) in DMF (10.0 ml), 4′-chloro-2′-methoxycarbonyl-p-toluenesulfonanilide (3.33 g (9.80 mmol)) was added under cooling with ice and with stirring. After 15 minutes' stirring under cooling with ice, dimethyl sulfate (1.02 g (10.8 mmol)) was added dropwise, and the reaction mixture was stirred at room temperature for 16 hours. Then, resulting reaction mixture was poured into water and extracted with ethyl acetate, and the extract was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with ethyl acetate-hexane (1:3) as eluent, to give 2.95 g (85%) of 4′-chloro-2′-methoxycarbonyl-N-methyl-p-toluenesulfonanilide as white crystals.

reactant | sodium hydride | 10.8 mmol, 0.43 g | [H-].[Na+]
reactant | 4′-chloro-2′-methoxycarbonyl-p-toluenesulfonanilide | 9.80 mmol, 3.33 g | ClC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)C(=O)OC | C15H14ClNO4S
reactant | dimethyl sulfate | 10.8 mmol, 1.02 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | O | H2O
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 4′-chloro-2′-methoxycarbonyl-N-methyl-p-toluenesulfonanilide | 2.95 g, 85% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)C)C=C1)C(=O)OC | C16H16ClNO4S
